US06090852
(d) N-Hydroxy 2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)-acetamide
O-(7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU 263 mg, 0.72 mmol) was added to a solution of 2-({methyl[(4'-cyanobiphenyl-4-yl)methyl]amino}sulfonyl)acetic acid (185 mg, 0.48 mmol) and N-ethyl-N,N-diisopropylamine (0.08 ml, 0.48 mmol) in anhydrous dimethylformamide (3 ml) at ambient temperature under an atmosphere of nitrogen. After stirring for 20 minutes a solution of hydroxylamine hydrochloride (131 mg, 1.92 mmol) and N-ethyl-NN-diisopropylamine (0.33 ml, 1.92 mmol) in anhydrous dimethylformamide (1 ml) was added and the solution was stirred for a further 16 hours. The mixture was partitioned between aqueous phosphate buffer (at pH 7) and ethyl acetate. The organic layer was washed with water, dried (MgSO4) and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (dichloromethane/methanol/aqueous ammonia 90:10:1 as eluent) to give the title compound as a colourless solid (14 mg).

reactant | O-(7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.72 mmol, 263 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-({methyl[(4'-cyanobiphenyl-4-yl)methyl]amino}sulfonyl)acetic acid | 0.48 mmol, 185 mg | CN(S(=O)(=O)CC(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H16N2O4S
reactant | N-ethyl-N,N-diisopropylamine | 0.48 mmol, 0.08 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hydroxylamine hydrochloride | 1.92 mmol, 131 mg | Cl.NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-Hydroxy 2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)-acetamide | 14 mg | ONC(CS(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C)=O | C17H17N3O4S
